US06313122B1
A. 2-(4-tert-Butylbenzoylamino)-4-[[N-(tert-butyloxycarbonyl)-L-phenylalanyl]amino]-N-(4-methoxyphenyl)benzamide
To a solution of N-(tert-butoxycarbonyl)-L-phenylalanine (130 mg, 0.49 mmol) in N,N-dimethylformamide (5 mL) cooled to 0° C. was added 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide (240 mg, 0.49 mmol), dicyclohexylcarbodiimide (112 mg, 0.54 mmol), and 7-aza-1-hydroxybenzotriazole (71 mg, 0.52 mmol). After stirring for 1 h, the reaction mixture was allowed to warm to room temperature. After 12 h, the mixture was filtered and the filtrate diluted with ethyl acetate. The solution was washed with 1 N aqueous sodium carbonate solution, 1.5 N aqueous citric acid solution, and water. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed (silica gel, 10% ethyl acetate/90% methylene chloride) to give 195 mg (60%) of the title compound.

reactant | N-(tert-butoxycarbonyl)-L-phenylalanine | 0.49 mmol, 130 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide | 0.49 mmol, 240 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)N)C=C1 | C25H27N3O3
reactant | dicyclohexylcarbodiimide | 0.54 mmol, 112 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-aza-1-hydroxybenzotriazole | 0.52 mmol, 71 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(4-tert-Butylbenzoylamino)-4-[[N-(tert-butyloxycarbonyl)-L-phenylalanyl]amino]-N-(4-methoxyphenyl)benzamide | 195 mg, 60% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)NC([C@@H](NC(=O)OC(C)(C)C)CC2=CC=CC=C2)=O)C=C1 | C39H44N4O6
